US09193693B2
Step 4. Methyl 3-(3,4-dihydroquinolin-1(2H)-yl)-2-phenylquinoxaline-6-carboxylate
Into a 20-mL sealed tube, was placed a solution of methyl 3-(3-(2-bromophenyl)propylamino)-2-phenylquinoxaline-6-carboxylate (240 mg, 0.50 mmol, 1.00 equiv) in dioxane (10 mL), CsCO3 (490 mg, 1.50 mmol, 3.00 equiv), Pd2(dba)3 (46 mg, 0.05 mmol, 0.10 equiv) and BINAP (125 mg, 0.20 mmol, 0.40 equiv) were added. The resulting solution was stirred overnight at 100° C. The mixture was concentrated under vacuum and purified by flash column chromatography with ethyl acetate/petroleum ether (1:50). This resulted in 180 mg (86%) of methyl 3-(3,4-dihydroquinolin-1(2H)-yl)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-(3-(2-bromophenyl)propylamino)-2-phenylquinoxaline-6-carboxylate | 0.50 mmol, 240 mg, 1.00 equiv | BrC1=C(C=CC=C1)CCCNC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C25H22BrN3O2
reactant | BINAP | 0.20 mmol, 125 mg, 0.40 equiv | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.05 mmol, 46 mg, 0.10 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Methyl 3-(3,4-dihydroquinolin-1(2H)-yl)-2-phenylquinoxaline-6-carboxylate | N1(CCCC2=CC=CC=C12)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C25H21N3O2
